2196-12-05 06:34:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PICC LINE - START [**2196-12-4**] 11:21 AM
   - Given 200+mEq NaHCO3
   - Patient developed severe abdominal pain - rebound tenderness.
   Morphine started at 2mg IV Q4 hours PRN -> narcotic requirement
   increased and patient's [**Year (4 digits) 297**] [**Name (NI) 117**] called to discussed goals of care
   ->
   - Levothyroxine dose increased
   - Troponin(CK): 0.02(527)>0.05(429), likely demand ischemic [**3-19**]
   hypotension/septic shock
   - Poor urine output - 220cc for 11 hours
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2196-12-4**] 12:30 PM
   Vancomycin - [**2196-12-4**] 06:36 PM
   Piperacillin/Tazobactam (Zosyn) - [**2196-12-5**] 12:23 AM
   Metronidazole - [**2196-12-5**] 01:21 AM
   Infusions:
   Norepinephrine - 0.15 mcg/Kg/min
   Other ICU medications:
   Sodium Bicarbonate 8.4% (Amp) - [**2196-12-4**] 09:08 PM
   Morphine Sulfate - [**2196-12-5**] 12:25 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Pain in abdomen; no bowel movements since admission; able to take
   liquids; no other complaints
   Flowsheet Data as of  [**2196-12-5**] 06:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.4
   Tcurrent: 36.3
C (97.4
   HR: 77 (76 - 127) bpm
   BP: 131/51(72) {85/39(52) - 131/87(103)} mmHg
   RR: 20 (7 - 24) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 62 Inch
    CO/CI (Fick): (5.7 L/min) / (3.5 L/min/m2)
   Mixed Venous O2% Sat: 74 - 74
   Total In:
                                                                  5,205 mL
                                                                  1,410 mL
   PO:
   TF:
   IVF:
                                                                  5,155 mL
                                                                  1,410 mL
   Blood products:
   Total out:
                                                                    488 mL
                                                                    180 mL
   Urine:
                                                                    238 mL
                                                                     50 mL
   NG:
   Stool:
   Drains:
                                                                    250 mL
                                                                    130 mL
   Balance:
                                                                  4,717 mL
                                                                  1,230 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///11/
   Physical Examination
   General: Resting comfortably; at times grimaces in pain
   HEENT: Prominent jugular pulsation; herpetic lesions on lower lip
   CV: Irregularly irregular; normal S1/S2; II/VI systolic murmur beset
   heard at LUSB
   Pulm: Crackles to right lower lung field and left middle lung field
   Abd: Midline would open with purulent drainage; significant tenderness
   even to movement of bed; hypoactive bowel sounds
   Ext: [**3-20**]+ pitting edema lower extremities bilaterally; LUE with
   considerable swelling distal to BP cuff
   Labs / Radiology
   381 K/uL
   10.1 g/dL
   182 mg/dL
   2.3 mg/dL
   11 mEq/L
   4.2 mEq/L
   43 mg/dL
   114 mEq/L
   138 mEq/L
   31.4 %
   26.5 K/uL
        [image002.jpg]
   LFTs WNL
   Albumin 2.0
   Fibrinogen 672
   INR 4.3
   PTT 45.9
   VBG 7.18/42/50/16
                            [**2196-12-4**]  10:40 AM
                            [**2196-12-4**]  01:07 PM
                            [**2196-12-4**]  02:49 PM
                            [**2196-12-4**]  08:00 PM
   WBC
   22.8
   26.5
   Hct
   32.0
   31.4
   Plt
   412
   381
   Cr
   2.4
   2.3
   2.3
   TropT
   0.05
   Glucose
   87
   220
   182
   Other labs: PT / PTT / INR:36.9/43.2/3.9, CK / CKMB /
   Troponin-T:429/22/0.05, Differential-Neuts:88.0 %, Band:2.0 %,
   Lymph:1.0 %, Mono:5.0 %, Eos:1.0 %, D-dimer:1741 ng/mL, Fibrinogen:662
   mg/dL, Lactic Acid:1.1 mmol/L, Ca++:7.2 mg/dL, Mg++:2.0 mg/dL, PO4:6.5
   mg/dL
   Blood culture x2
 No growth to date
   Urine culture
 No growth to date
   Assessment and Plan
   85 year-old female with a history of CAD s/p CABG, chronic CHF and
   recent hospitalized for rectal perf, small bowel prolapse with necrosis
   s/p rectocolectomy and perc chole for acalc cholecystitis with course
   c/b pneumonia and c diff. transferred from OSH on [**12-4**] with septic
   shock.
   #. SEPTIC SHOCK: Patient with leukocytosis and tachypnea at
   presentation. Overnight, tachycardic intermittently. Afebrile.
   Therefore meets SIRS criteria. Has many potential sources for
   infection, including intraabdominal given recent surgery, UTI,
   pneumonia, bacteremia, cellulitis. Intraabdominal process most likely
   given complicated surgical course. Large open surgical wound which was
   debrided within past 3-4 days. Also with development of significant
   peritoneal symptoms overnight. On CT abdomen/pelvis, patient with free
   fluid which certain could be infected. Lactate surprisingly normal thus
   far. In terms of UTI, large LE with WBCs and and moderate bacteria. In
   terms of pneumonia, retrocardiac opacity on chest radiograph lilkely
   hernia but could be consolidation; patient also reported productive
   cough on presentation. In terms of bacteremia, patient had invasive
   surgery and PICC placed at OSH. In terms of cellulitis, patient with
   skin tears on buttocks and right leg although no evidence of cellultis
   at these sites or surrounding open wound on abdomen.
   - Patient not interested in having surgery or central line placement;
   unable to place arterial line yesterday
   - Discuss with surgery options for wound care to minimize discomfort
   - 1 pressor (Levophed) + IV fluid boluses to maintain MAP>60
   - Await final read of CT abdomen/pelvis
   - Broad spectrum antibiotics given exact source of infection is unknown
   (IV zosyn/vanco/flagyl and PO vanco)
        - Vancomycin will need to be redosed
 initially only given 1 dose
   [**3-19**] renal failure
   - Follow-up blood, urine cultures
   - Consider obtaining abdominal wound cultures
   - Trend WBC cound and fever curve
   - Stress dose steroids
   - Monitor lactate
   #. PAIN CONTROL: Significant pain associated with open wound +
   peritonitis by exam
   - Fentanyl patch
   - Given that patch will take 24 hours to take effect, standing morphine
   today with prn doses for breakthrough pain
   #. ELEVATED TROPONINS: Likely secondary to demand ischemia given
   hypotension. Has history of CAD s/p CABG with MI in [**2194**]. Telemetry and
   EKG with considerable ectopy but no indication of acute ischemia.
   - ASA held currently given INR so elevated
   - Statin held pending ability to take POs
   - BB and ACEI held given hypotension
   #. LEFT UPPER EXTREMITY EDEMA: Likely secondary to IVF + oliguria +
   compression from BP cuff
   - Release BP cuff to assess for resolution
   - If continued asymmetric edema, consider ultrasound to assess for clot
   #. METABOLIC ACIDOSIS: Non gap and suspect due to high output from
   colostomy in setting of c. diff, worsened renal failure and expansion
   acidosis given her hyperchloremia.  When corrected for albumin, does
   have AG as well although lactate is normal; no ketonuria. Unable to get
   arterial gas as she is clamped down on pressors.
   - Serial venous gases to assess extent of acidosis.
   - Bicarb supplementation in IVF - since admission given over 300mEq
   NaHCO3
   #. ARF on CRI: Baseline creatinine appears most consistently 1.5-2.0
   although she has had multiple bumps higher than this.  Likely bumped in
   the setting of septic shock. UOP poor since admission, averaging at
   less than 20cc per hour despite considerable fluid resuscitation.
   - Continue supportive care as above with monitoring of UOP - aim for
   UOP>30cc/hr
   # COAGULOPATHY: INR elevated to 4.1 on presentation, now to 4.3. Not on
   coumadin. Initially concerned for DIC although fibrinogen elevated
   (although not completely reliable given that it is an acute phase
   reactant). FDP and D-dimer elevated. Was given vitamin K 10mg PO x1 on
   admission.
   - Continue to monitor
   - No indication for FFP, cryo, or platelets at this time
   # CHRONIC CHF: Not in overt CHF on CXR. Given septic shock will push
   fluids as possible although may become difficult balance given patient
   is DNI and goal will be to maintain stable respiratory function.
   - Holding BB, ACEI, Lasix as above
   # PAF: Appeared to be in rate controlled a. fib in ED. Transiently in
   atrial fibrillation overnight. Not on anticoagulation.
   - Holding BB given hypotension currently
   # ANEMIA OF CHRONIC DISEASE: Baseline hct appears most consistently
   high 20s-low 30s and she is currently within this baseline after
   several liters of crystalloid.  Elevated MCV and high end normal RDW.
   Iron studies in [**2195**] c/w AOCD; B12 and folate were normal at that time.
   - Continue to monitor.
   # HYPERLIPIDEMIA: As not critical at this time will restart
   atorvastatin at current dose once better taking POs.
   # HYPOTHYROIDISM: TSH elevated to 23. T3/T4 low.
   - Levothyroxine dose increased.
   # FEN:
   - Continue to monitor lytes
   - IVFs now
   # Access:  Right PICC.
   # PPx:  Pneumoboots for DVT prophylaxis.  INR supratherapeutic.
   # Code:  DNR/DNI, no CVL
   - Plan to rediscuss goals of care with family today.
   # Dispo:  ICU care
   # Comm:  [**Name (NI) **] is HCP [**First Name5 (NamePattern1) 1508**] [**Name (NI) 1509**] [**Telephone/Fax (1) 1510**])
   ICU Care (As above)
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2196-12-4**] 11:21 AM
   22 Gauge - [**2196-12-4**] 11:21 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2196-12-06 07:17:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2196-12-5**] 06:36 PM
   Left arm Peripheral stick. Blood culture and fungal isolator
   - Spoke with surgery regarding woundcare --> cont wet/dry dressing.
   Consulted woundcare nursing.
   - started fentanyl patch 12mcg
   - Levophed at 0.09
   - IVF gave 500cc NS bolus x 3 and D5 1/2NS w/ 50mEq of Bicarb @
   150cc/hr x 1L and then D5 1/2NS at 100cc/hr
   - UOP: 7-25cc/hr
   - Blood cx and urine cx growing yeast --> started on caspo
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2196-12-4**] 12:30 PM
   Vancomycin - [**2196-12-5**] 11:58 AM
   Caspofungin - [**2196-12-5**] 10:11 PM
   Metronidazole - [**2196-12-6**] 12:35 AM
   Piperacillin/Tazobactam (Zosyn) - [**2196-12-6**] 01:36 AM
   Infusions:
   Norepinephrine - 0.09 mcg/Kg/min
   Other ICU medications:
   Fentanyl - [**2196-12-5**] 01:30 PM
   Morphine Sulfate - [**2196-12-5**] 10:33 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Denies pain this morning; small ostomy output yesterday, maroon in
   appearance; otherwise no complaints this morning
 denies SOB, CP,
   nausea/vomiting
   Flowsheet Data as of  [**2196-12-6**] 07:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 35.6
C (96
   HR: 72 (72 - 86) bpm
   BP: 101/43(50) {72/30(44) - 131/60(76)} mmHg
   RR: 0 (0 - 33) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 62 Inch
             Total In:
                                                                  5,450 mL
                                                                  1,368 mL
   PO:
             TF:
   IVF:
                                                                  5,450 mL
                                                                  1,368 mL
   Blood products:
   Total out:
                                                                  1,164 mL
                                                                    235 mL
   Urine:
                                                                    394 mL
                                                                    125 mL
   NG:
   Stool:
   Drains:
                                                                    770 mL
                                                                    110 mL
   Balance:
                                                                  4,286 mL
                                                                  1,133 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///17/
   Physical Examination
   General: Resting comfortably
   HEENT: Prominent jugular pulsation; herpetic lesions on lower lip,
   improved
   CV: RRR this morning; normal S1/S2; II/VI systolic murmur beset heard
   at LUSB
   Pulm: Decreased breath sounds bibasilar; few crackles LLL
   Abd: Midline wound dressed at this time; hypoactive bowel sounds;
   decreased tenderness compared to yesterday
   Ext: [**3-20**]+ pitting edema lower extremities bilaterally; considerable
   upper extremity edema bilaterally
   Labs / Radiology
   295 K/uL
   9.6 g/dL
   140 mg/dL
   2.3 mg/dL
   17 mEq/L
   3.6 mEq/L
   42 mg/dL
   107 mEq/L
   135 mEq/L
   28.4 %
   18.0 K/uL
        [image002.jpg]
   Ca: 6.6 Mg: 2.1 P: 5.5
   PT: 30.7
   PTT: 40.7
   INR: 3.2
   Vanco: 20.1
   ALT: 7
   AP: 53
   Tbili: 0.2
   Alb:
   AST: 12
   LDH: 141
   Dbili:
   TProt:
   [**Doctor First Name 92**]:
   Lip:
   VBG 7.28/36/34, lactate 2.0
                            [**2196-12-4**]  10:40 AM
                            [**2196-12-4**]  01:07 PM
                            [**2196-12-4**]  02:49 PM
                            [**2196-12-4**]  08:00 PM
                            [**2196-12-5**]  05:45 AM
                            [**2196-12-5**]  05:28 PM
   WBC
   22.8
   26.5
   17.1
   18.0
   Hct
   32.0
   31.4
   27.0
   28.4
   Plt
   [**Telephone/Fax (3) 1541**]95
   Cr
   2.4
   2.3
   2.3
   2.4
   2.3
   TropT
   0.05
   Glucose
   87
   220
   182
   270
   140
   Other labs: PT / PTT / INR:33.0/39.1/3.4, CK / CKMB /
   Troponin-T:429/22/0.05, ALT / AST:[**10-5**], Alk Phos / T Bili:62/0.3,
   Differential-Neuts:94.4 %, Band:2.0 %, Lymph:4.0 %, Mono:1.3 %, Eos:0.1
   %, D-dimer:1741 ng/mL, Fibrinogen:672 mg/dL, Lactic Acid:1.1 mmol/L,
   Albumin:2.0 g/dL, Ca++:7.1 mg/dL, Mg++:2.2 mg/dL, PO4:5.8 mg/dL
   Imaging: CT abd/pelvis without contrast ([**2196-12-4**]): (1) A long segment
   of transverse colon herniates through a large diaphragmatic defect into
   the chest. There is no pneumatosis, although further evaluation of the
   bowel for ischemic changes is limited without the use of contrast. (2)
   Small amount of pelvic free fluid. Without oral contrast, it is
   difficult to differentiate free fluid from decompressed colon and small
   bowel. (3) Suture line with small pocket of gas and fluid adjacent that
   may be post-
   surgical (2:58). (4) The gallbladder is not well seen, which may be
   contracted around the drain.
   Microbiology: URINE CULTURE (Final [**2196-12-5**]): YEAST >100,000
   ORGANISMS/ML
   Blood Culture, Routine (Preliminary [**2196-12-4**]): YEAST
   Blood culture ([**12-4**] x1, [**12-5**] x3): No growth to date
   Assessment and Plan
   85 year-old female with a history of CAD s/p CABG, chronic CHF and
   recent hospitalized for rectal perf, small bowel prolapse with necrosis
   s/p rectocolectomy and perc chole for acalc cholecystitis with course
   c/b pneumonia and c diff. transferred from OSH on [**12-4**] with septic
   shock.
   #. SEPTIC SHOCK: Patient with leukocytosis and tachypnea at
   presentation. Afebrile but on steroids. Therefore meets SIRS criteria.
   Likely source of sepsis here is fungemia. Patient with yeast in blood
   (1 out of 2 cultures) and urine.
        Other potential sources of infection include intraabdominal given
   recent surgery, pneumonia, cellulitis, C diff. Intraabdominal process
   possible given complicated surgical course. Large open surgical wound
   which was debrided within past 3-4 days. On CT abdomen/pelvis, patient
   with free fluid which certain could be infected. Lactate normal (last
   check [**12-4**]). In terms of pneumonia, retrocardiac opacity on chest
   radiograph lilkely hernia but could be consolidation; patient also
   reported productive cough on presentation. In terms of cellulitis,
   patient with skin tears on buttocks and right leg although no evidence
   of cellultis at these sites or surrounding open wound on abdomen.
   Patient also with diagnosis of C diff infection at OSH.
   - Caspofungin IV started [**12-5**]; awaiting culture sensitivities
   - D/c PICC as potential for seeding with yeast
   - Flagyl IV and vancomycin PO for C diff
   - Broad spectrum antibiotics (IV zosyn/vanco/Flagyl)
           - Will stop vancomycin IV as 2 good definitive sources of
   infection at this time; keep on Zosyn considering open abd wound
   - Patient not interested in having surgery or central line placement;
   unable to place arterial line on admission
   - 1 pressor (Levophed) + IV fluid boluses to maintain MAP>60
   - Follow-up blood cultures
   - Consider obtaining abdominal wound cultures
   - Trend WBC cound and fever curve
   - Taper down steroids as may be interfering with wound healing, ?proven
   benefit
   - Monitor lactate
   #. POST-OP CARE: Significant pain associated with open wound +
   peritonitis by exam. Seen by surgery - continue wet and dry dressings.
   - Fentanyl patch with morphine prn for breakthrough pain (Fentanyl
   Patch 12 mcg/hr TP Q72H)
   - Wound care nurse to come by this morning
   # COAGULOPATHY: INR elevated to 4.1 on presentation, now 3.2. Not on
   coumadin. Concern for DIC although fibrinogen elevated (although not
   completely reliable given that it is an acute phase reactant). FDP and
   D-dimer elevated. Nutritional deficiency + having been on antibiotics
   since last admission likely also contributing to coagulopathy. Was
   given vitamin K 10mg PO x1 on admission.
   - Repeat vitamin K 10mg PO x1
   - Continue to monitor
   #. METABOLIC ACIDOSIS: Non gap and suspect due to high output from
   colostomy in setting of c. diff, worsened renal failure and expansion
   acidosis given her hyperchloremia.  When corrected for albumin, does
   have AG as well although lactate is normal; no ketonuria. Unable to get
   arterial gas as she is hypovolemic and clamped down on pressors.
   - Serial venous gases to assess extent of acidosis.
   - Bicarb supplementation in IVF
   #. ARF on CRI: Baseline creatinine appears most consistently 1.5-2.0
   although she has had multiple bumps higher than this.  Likely bumped in
   the setting of septic shock. UOP poor since admission, averaging at
   less than 20cc per hour despite considerable fluid resuscitation.
   - Continue supportive care as above with monitoring of UOP - aim for
   UOP>30cc/hr
   - Aggressive fluid bolus as large insensible losses
   #. ELEVATED TROPONINS: Likely secondary to demand ischemia given
   hypotension. Has history of CAD s/p CABG with MI in [**2194**]. Telemetry and
   EKG with considerable ectopy but no indication of acute ischemia.
   - ASA held currently given INR so elevated
   - Statin held pending ability to take POs
   - BB and ACEI held given hypotension
   # CHRONIC CHF: In [**11-22**], LVEF>55% without evidence of diastolic
   dysfunction. Not in overt CHF on CXR on admission. Given septic shock
   will push fluids as possible although may become difficult balance
   given patient is DNI and goal will be to maintain stable respiratory
   function.
   - Holding BB, ACEI, Lasix as above
   # PAF: Appeared to be in rate controlled a. fib in ED. Transiently in
   atrial fibrillation overnight. Not on anticoagulation.
   - Holding BB given hypotension currently
   # ANEMIA OF CHRONIC DISEASE: Baseline hct appears most consistently
   high 20s-low 30s and she is currently within this baseline after
   several liters of crystalloid.  Elevated MCV and high end normal RDW.
   Iron studies in [**2195**] c/w AOCD; B12 and folate were normal at that time.
   - Continue to monitor.
   # HYPERLIPIDEMIA: As not critical at this time will restart
   atorvastatin at current dose once better taking POs.
   # HYPOTHYROIDISM: TSH elevated to 23. T3/T4 low.
   - Levothyroxine dose increased [**12-5**].
   # FEN:
   - Continue to monitor lytes
   - Taking PO liquids
 allow as tolerated
   # Access:  Right PICC
   - Contact IV team to replace
   # PPx:  INR supratherapeutic.  Reassess as INR falls.
   # Code:  DNR/DNI, no CVL
   - Continue open discussion re: goals of care with family.
   # Dispo:  ICU care
   # Comm:  [**Name (NI) **] is HCP [**First Name5 (NamePattern1) 1508**] [**Name (NI) 1509**] [**Telephone/Fax (1) 1510**])
   ICU Care (as above)
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2196-12-4**] 11:21 AM
   22 Gauge - [**2196-12-5**] 08:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2196-12-07 06:56:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2196-12-6**] 06:30 PM (from PICC)
   - Received 1U pRBCs with appropriate hematocrit response
   - Blood cultures from [**12-4**] now with coag negative Staph ([**2-17**] sets).
   - IV team will not place PICC as pt has bacteremia and septicemia.
   Original PICC left in place.
   - 500 cc fluid challenge. MAP 60->65.
   - Discussed with nephew (both he and [**Month/Day (2) 297**] are HCPs), likely will agree
   to [**Name (NI) 864**] tomorrow.
   - Levophed down to 0.06
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2196-12-4**] 12:30 PM
   Caspofungin - [**2196-12-6**] 08:00 PM
   Metronidazole - [**2196-12-7**] 12:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2196-12-7**] 12:00 AM
   Vancomycin - [**2196-12-7**] 12:01 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Slept well. Denies abdominal pain, nausea/vomiting. Ate apple sauce
   this morning without problem. [**Name (NI) **]: possible need to place central line
   today, says
I can
t go on like this
 but adds
talk it over with my
   [**Name (NI) 297**] and nephew.
   Flowsheet Data as of  [**2196-12-7**] 06:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (96.9
   Tcurrent: 35.6
C (96
   HR: 75 (59 - 76) bpm
   BP: 120/63(78) {89/41(52) - 120/63(78)} mmHg
   RR: 28 (8 - 30) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 62 Inch
             Total In:
                                                                  4,251 mL
                                                                    264 mL
   PO:
             TF:
   IVF:
                                                                  3,974 mL
                                                                    264 mL
   Blood products:
                                                                    277 mL
   Total out:
                                                                    938 mL
                                                                    435 mL
   Urine:
                                                                    378 mL
                                                                    135 mL
   NG:
   Stool:
   Drains:
                                                                    440 mL
                                                                    250 mL
   Balance:
   LOS: +12.1L (not accounting for insensible losses)
                                                                  3,313 mL
                                                                   -171 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///16/
   Physical Examination
   General: Resting comfortably
   HEENT: Prominent jugular pulsation; eschar on lower lip, improved
   CV: RRR this morning; normal S1/S2; I/VI systolic murmur beset heard at
   LLSB
   Pulm: Decreased breath sounds left base
   Abd: Midline wound dressed at this time; colostomy on left, drainage
   for bile on left; hypoactive bowel sounds; decreased tenderness
   compared to yesterday
   Ext: [**3-20**]+ pitting edema lower extremities bilaterally; considerable
   upper extremity edema bilaterally
   Labs / Radiology
   277 K/uL
   9.7 g/dL
   110 mg/dL
   2.1 mg/dL
   16 mEq/L
   3.8 mEq/L
   41 mg/dL
   111 mEq/L
   136 mEq/L
   28.4 %
   13.7 K/uL
        [image002.jpg]
   Vanco: 17.0
   PT: 25.4
   INR: 2.5
   Ca: 6.6 Mg: 2.1 P: 5.7
                            [**2196-12-4**]  10:40 AM
                            [**2196-12-4**]  01:07 PM
                            [**2196-12-4**]  02:49 PM
                            [**2196-12-4**]  08:00 PM
                            [**2196-12-5**]  05:45 AM
                            [**2196-12-5**]  05:28 PM
                            [**2196-12-6**]  05:04 AM
                            [**2196-12-6**]  06:25 PM
                            [**2196-12-7**]  04:30 AM
   WBC
   22.8
   26.5
   17.1
   18.0
   15.2
   13.7
   Hct
   32.0
   31.4
   27.0
   28.4
   24.4
   28.2
   28.4
   Plt
   [**Telephone/Fax (3) 1541**]95
   247
   277
   Cr
   2.4
   2.3
   2.3
   2.4
   2.3
   2.1
   2.1
   TropT
   0.05
   Glucose
   87
   220
   182
   270
   140
   143
   110
   Other labs: PT / PTT / INR:25.4/40.7/2.5, CK / CKMB /
   Troponin-T:429/22/0.05, ALT / AST:[**8-27**], Alk Phos / T Bili:53/0.2,
   Differential-Neuts:94.4 %, Band:2.0 %, Lymph:4.0 %, Mono:1.3 %, Eos:0.1
   %, D-dimer:1741 ng/mL, Fibrinogen:672 mg/dL, Lactic Acid:2.0 mmol/L,
   Albumin:2.0 g/dL, LDH:141 IU/L, Ca++:6.6 mg/dL, Mg++:2.1 mg/dL, PO4:5.7
   mg/dL
   Microbiology: Wound:
   GRAM STAIN (Final [**2196-12-6**]): NO POLYMORPHONUCLEAR LEUKOCYTES SEEN. NO
   MICROORGANISMS SEEN.
   Blood culture ([**12-6**]): Pending x2
   C diff toxin ([**12-6**]): Negative
   Blood culture ([**12-4**]): YEAST. STAPHYLOCOCCUS, COAGULASE NEGATIVE.
   ISOLATED FROM ONE SET ONLY.
   Assessment and Plan
   85 year-old female with a history of CAD s/p CABG, chronic CHF and
   recent hospitalized for rectal perf, small bowel prolapse with necrosis
   s/p rectocolectomy and perc chole for acalc cholecystitis with course
   c/b pneumonia and c diff. transferred from OSH on [**12-4**] with septic
   shock, now with fungemia and ?bacteremia.
   #. SEPTIC SHOCK: Patient with leukocytosis and tachypnea at
   presentation. Afebrile but on steroids. Therefore meets SIRS criteria.
   Likely source of sepsis here is fungemia +/- bacteremia. Patient with
   yeast in blood (1 out of 2 cultures) and urine. On [**12-6**] with 1 out of
   2 cultures with coag negative Staph. Also C diff toxin positive at OSH
   within past 1 week.
        Other potential sources of infection include intraabdominal given
   recent surgery, pneumonia, celluliti. Intraabdominal process possible
   given complicated surgical course. Large open surgical wound which was
   debrided within past 3-4 days. On CT abdomen/pelvis, patient with free
   fluid which certain could be infected. Lactate normal (last check
   [**12-4**]). In terms of pneumonia, retrocardiac opacity on chest radiograph
   lilkely hernia but could be consolidation; patient also reported
   productive cough on presentation. In terms of cellulitis, patient with
   skin tears on buttocks and right leg although no evidence of cellultis
   at these sites or surrounding open wound on abdomen.
   - Caspofungin IV started [**12-5**]; awaiting culture sensitivities
        - Need TTE and ophthalmology consult? Will hold at this time as
   reason for consults is to determine duration of anti-fungal course.
   - Vancomycin IV restarted [**12-6**] - will redose this morning based on
   vanco trough (given ?bacteremia)
   - PICC was to be replaced on [**12-6**], but given fungemia and bacteremia
   IV team did not wish to place new PICC. Midline is an option, although
   patient is on Levophed and therefore needs central access. Overnight
   team spoke with HCP and if okay with patient, we may place [**Month/Year (2) 864**] today.
   PICC in place until new access established.
   - Flagyl IV and vancomycin PO for C diff
   - Additional broad spectrum antibiotics (IV zosyn/vanco/Flagyl) as
   potential for abdominal process as well
        - D/c Zosyn at this time as we have source for sepsis. If
   clinically worsens today will considering adding back Zosyn.
   - Patient not interested in having surgery; unable to place arterial
   line on admission
   - 1 pressor (Levophed) + IV fluid boluses to maintain MAP>60 (received
   500cc bolus on [**12-6**] with good response)
   - Follow-up blood and wound cultures
   - Trend WBC cound and fever curve
   - Steroids tapered to 25mg IV Q12 hours on [**12-6**]; continue to taper
   - Monitor lactate
   #. POST-OP CARE: Significant pain associated with open wound +
   peritonitis by exam; pain now well-controlled. Seen by surgery on [**12-5**]
   - continue wet and dry dressings. Seen by wound care nurse [**12-6**].
   - Fentanyl patch with morphine prn for breakthrough pain (Fentanyl
   Patch 12 mcg/hr TP Q72H)
   - Wound care nurse: Colostomy care, midline wound care recs
   # COAGULOPATHY: INR elevated to 4.1 on presentation, now 2.5. Not on
   coumadin. Concern for DIC although fibrinogen elevated (although not
   completely reliable given that it is an acute phase reactant). FDP and
   D-dimer elevated. Nutritional deficiency + having been on antibiotics
   since last admission likely also contributing to coagulopathy. Was
   given vitamin K 10mg PO x1 on admission and repeat dose on [**12-6**].
   - Continue to monitor
   #. METABOLIC ACIDOSIS: Non gap and suspect due to high output from
   colostomy in setting of c. diff, worsened renal failure and expansion
   acidosis given her hyperchloremia.  When corrected for albumin, does
   have AG as well although lactate is normal; no ketonuria. Unable to get
   arterial gas as she is hypovolemic and clamped down on pressors.
   - Serial venous gases to assess extent of acidosis.
   - Bicarb supplementation in IVF
   #. ARF on CRI: Baseline creatinine appears most consistently 1.5-2.0
   although she has had multiple bumps higher than this.  Likely bumped in
   the setting of septic shock. UOP poor since admission, averaging at
   less than 20cc per hour despite considerable fluid resuscitation.
   - Continue supportive care as above with monitoring of UOP - aim for
   UOP>30cc/hr
   - Aggressive fluid bolus as large insensible losses
   #. ELEVATED TROPONINS: Likely secondary to demand ischemia given
   hypotension. Has history of CAD s/p CABG with MI in [**2194**]. Telemetry and
   EKG with considerable ectopy but no indication of acute ischemia.
   - ASA held currently given INR so elevated
   - Statin held pending ability to take POs
   - BB and ACEI held given hypotension
   # CHRONIC CHF: In [**11-22**], LVEF>55% without evidence of diastolic
   dysfunction. Not in overt CHF on CXR on admission. Given septic shock
   will push fluids as possible although may become difficult balance
   given patient is DNI and goal will be to maintain stable respiratory
   function.
   - Holding BB, ACEI, Lasix as above
   # PAF: Appeared to be in rate controlled a. fib in ED. Transiently in
   atrial fibrillation overnight. Not on anticoagulation.
   - Holding BB given hypotension currently
   # ANEMIA OF CHRONIC DISEASE: Baseline hct appears most consistently
   high 20s-low 30s and she is currently within this baseline after
   several liters of crystalloid.  Elevated MCV and high end normal RDW.
   Iron studies in [**2195**] c/w AOCD; B12 and folate were normal at that time.
   Received 1U pRBCs on [**12-6**] with appropriate hematocrit response.
   - Continue to monitor.
   # HYPERLIPIDEMIA: As not critical at this time will restart
   atorvastatin at current dose once better taking POs.
   # HYPOTHYROIDISM: TSH elevated to 23. T3/T4 low.
   - Levothyroxine dose increased [**12-5**].
   # FEN:
   - Continue to monitor lytes
   - Taking PO liquids
 advance as tolerated
   # Access:  Right PICC
   - Discuss with patient/HCP possibility of placing [**Name (NI) 864**] today.
   - If not interested, will place midline and in turn have to switch
   pressors.
   # PPx:  INR therapeutic.  Reassess as INR falls.
   # Code:  DNR/DNI, no [**Name (NI) 864**]
   - Continue open discussion re: goals of care with family.
   # Dispo:  ICU care
   # Comm:  [**Name (NI) **] is HCP [**First Name5 (NamePattern1) 1508**] [**Name (NI) 1509**] [**Telephone/Fax (1) 1510**])
   ICU Care (as above)
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2196-12-4**] 11:21 AM
   22 Gauge - [**2196-12-5**] 08:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2196-12-08 07:15:00 Physician Resident Progress Note
Chief Complaint: Sepsis
   24 Hour Events:
 MULTI LUMEN - START [**2196-12-7**] 05:52 PM
 PICC LINE - STOP [**2196-12-7**] 07:00 PM
   - RIJ placed
   - PICC line pulled
   - Given vancomycin 750mg IV x1; Zosyn stopped
   - Tolerated soft foods well
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2196-12-7**] 08:00 AM
   Caspofungin - [**2196-12-7**] 08:00 PM
   Metronidazole - [**2196-12-8**] 12:00 AM
   Vancomycin - [**2196-12-8**] 05:16 AM
   Infusions:
   Norepinephrine - 0.08 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2196-12-8**] 07:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.2
   Tcurrent: 36.2
C (97.2
   HR: 72 (68 - 99) bpm
   BP: 126/66(80) {94/46(60) - 129/69(82)} mmHg
   RR: 23 (9 - 31) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 62 Inch
    CVP: 8 (7 - 10)mmHg
   Total In:
                                                                  1,438 mL
                                                                    361 mL
   PO:
                                                                    180 mL
                                                                    120 mL
   TF:
   IVF:
                                                                  1,258 mL
                                                                    241 mL
   Blood products:
   Total out:
                                                                  1,181 mL
                                                                    770 mL
   Urine:
                                                                    581 mL
                                                                    170 mL
   NG:
   Stool:
                                                                    300 mL
   Drains:
                                                                    550 mL
                                                                    300 mL
   Balance:
                                                                    257 mL
                                                                   -409 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///15/
   Physical Examination
   General: Resting comfortably
   HEENT: Prominent jugular pulsation; eschar on lower lip, improved
   CV: RRR this morning; normal S1/S2; I/VI systolic murmur beset heard at
   LLSB
   Pulm: Decreased breath sounds left base
   Abd: Midline wound dressed at this time; colostomy on left, drainage
   for bile on left; hypoactive bowel sounds; decreased tenderness
   compared to yesterday
   Ext: [**3-20**]+ pitting edema lower extremities bilaterally; considerable
   upper extremity edema bilaterally
   Labs / Radiology
   266 K/uL
   10.3 g/dL
   118 mg/dL
   1.8 mg/dL
   15 mEq/L
   3.8 mEq/L
   43 mg/dL
   110 mEq/L
   136 mEq/L
   30.0 %
   14.3 K/uL
        [image002.jpg]
                            [**2196-12-4**]  10:40 AM
                            [**2196-12-4**]  01:07 PM
                            [**2196-12-4**]  02:49 PM
                            [**2196-12-4**]  08:00 PM
                            [**2196-12-5**]  05:45 AM
                            [**2196-12-5**]  05:28 PM
                            [**2196-12-6**]  05:04 AM
                            [**2196-12-6**]  06:25 PM
                            [**2196-12-7**]  04:30 AM
                            [**2196-12-8**]  03:57 AM
   WBC
   22.8
   26.5
   17.1
   18.0
   15.2
   13.7
   14.3
   Hct
   32.0
   31.4
   27.0
   28.4
   24.4
   28.2
   28.4
   30.0
   Plt
   [**Telephone/Fax (3) 1541**]95
   247
   277
   266
   Cr
   2.4
   2.3
   2.3
   2.4
   2.3
   2.1
   2.1
   1.8
   TropT
   0.05
   Glucose
   87
   220
   182
   270
   140
   143
   110
   118
   Other labs: PT / PTT / INR:20.2/34.1/1.9, CK / CKMB /
   Troponin-T:429/22/0.05, ALT / AST:[**8-27**], Alk Phos / T Bili:53/0.2,
   Differential-Neuts:94.4 %, Band:2.0 %, Lymph:4.0 %, Mono:1.3 %, Eos:0.1
   %, D-dimer:1741 ng/mL, Fibrinogen:672 mg/dL, Lactic Acid:2.0 mmol/L,
   Albumin:2.0 g/dL, LDH:141 IU/L, Ca++:7.1 mg/dL, Mg++:2.2 mg/dL, PO4:5.5
   mg/dL
   Microbiology: [**12-4**]:  Blood Culture, Routine (Preliminary):    YEAST,
   PRESUMPTIVELY NOT C. ALBICANS.
   STAPHYLOCOCCUS, COAGULASE NEGATIVE.    ISOLATED FROM ONE SET
   ONLY.
   C. diff negative x1
   Blood ([**12-5**] - present) - NGTD
   Catheter: NGTD
   Wound: NGTD
   Assessment and Plan
   Mrs. [**Known lastname 1598**] is an 85 year old female with a PMH significant for CAD s/p
   CABG and recent hospitalization for rectal perforation and small bowel
   prolapse complicatedy by necrosis now s/p rectocolectomy and
   percutaneous chole with course complicated by pneumonia and C.diff
   transferred from OSH on [**12-4**] for septic shock secondary to fungemia
   and bacetermia.
   .
   # Sepsis: Patient with blood cultures from [**12-4**] positive for coag
   negative Staph and yeast (presumptively not [**Female First Name (un) **]). Also with
   positive C.diff from OSH in prior week and possible intraabdominal
   infectious process. Continues to have a leukocytosis to 14.3 and
   hypotensive requiring pressor support.
   - Continue IV vancomycin for Coag negative Staph dosed per daily AM
   levels. Received 750 mg x1 yesterday.
   - Continue PO vanco and IV flagyl for C. diff coverage.
   - Continue caspofungin for fungemia.
   - Follow-up on culture data
   - Wean levophed with goal MAP>65
   - Trend fever curve and WBC
   - Continue taper of hydrocort to 25 daily
   - Patient will need ophtho consult for candidemia
   .
   # Coagulopathy: INR continues to be elevated although trending down to
   1.9 from 2.5 yesterday. Unlikely to be microangiopathic process such as
   DIC given elevated fibrinogen and platelets>100.  Likely combination of
   nutritional deficiency in conjunction with antimicrobial therapy
   altering gut flora.  Patient has received vitamin K 10 mg x2 during
   admission.
   - Trend coags
   - Follow-up Nutrition recs
   .
   # Acute on chronic renal failure: Creatinine continues to trend down,
   this AM to 1.8 with baseline of 1.5-2.0.  UOP continues to be poor at
   XX cc/hr.  ARF likely due to hypotension/sepsis and inadequate renal
   perfusion.
   - Trend renal function
   .
   # Anemia: AM hct of 30 at baseline.  She has an elevated MCV with high
   normal RDW. Past iron studies consistent with ACD.
   - Trend hct, transfuse for hct<25
   .
   # Rectocolectomy: Patient evaluated by surgery and wound care.
   - Dressing changes per wound care
   - Continues to have bloody output from ostomy bag.
   - Fentaynl patch and morphine prn for breakthrough pain.
   .
   # PAF: Continues to appear to be in afib/flutter on telemetry. .
   - Holding BB given hypotension currently
   .
   # Elevated biomarkers: Likely secondary to demand ischemia given
   hypotension. Has history of CAD s/p CABG with MI in [**2194**]. Telemetry and
   EKG with considerable ectopy but no indication of acute ischemia.
   - Restart ASA and statin
   - BB and ACEI held given hypotension
   .
   # CHRONIC CHF: In [**11-22**], LVEF>55% without evidence of diastolic
   dysfunction. Not in overt CHF on CXR on admission. Given septic shock
   will push fluids as possible although may become difficult balance
   given patient is DNI and goal will be to maintain stable respiratory
   function.
   - Holding BB, ACEI, Lasix as above
   .
   # HYPERLIPIDEMIA: Restart statin
   .
   # HYPOTHYROIDISM: TSH elevated to 23. T3/T4 low.
   - Levothyroxine dose increased [**12-5**].
   .
   # FEN: Tolerating softs, nutrition consult, replete as necessary
   .
   # Access:
   - RIJ - pull back 2 cm.
   .
   # PPx: INR subtherapeutic. Heparin SQ.
   .
   # Code:  DNR/DNI
   - Continue open discussion re: goals of care with family.
   .
   # Dispo:  ICU level of care
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2196-12-5**] 08:00 AM
   Multi Lumen - [**2196-12-7**] 05:52 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2196-12-09 06:51:00 Physician Resident Progress Note
Chief Complaint: Candidemia/Coag negative Staph sepsis s/p
   rectocolectomy.
   24 Hour Events:
   - RIJ pulled back and CXR showed in IVC
   - Levophed down to 0.07
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2196-12-7**] 08:00 AM
   Caspofungin - [**2196-12-8**] 08:30 PM
   Metronidazole - [**2196-12-8**] 11:38 PM
   Vancomycin - [**2196-12-9**] 05:32 AM
   Infusions:
   Norepinephrine - 0.06 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2196-12-8**] 08:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2196-12-9**] 06:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 35.4
C (95.7
   HR: 85 (72 - 102) bpm
   BP: 109/47(60) {88/46(55) - 140/73(86)} mmHg
   RR: 19 (11 - 34) insp/min
   SpO2: 99%
   Heart rhythm: A Flut (Atrial Flutter)
   Wgt (current): 101.2 kg (admission): 62.5 kg
   Height: 62 Inch
    CVP: 8 (0 - 14)mmHg
   Total In:
                                                                  1,511 mL
                                                                    117 mL
   PO:
                                                                    360 mL
   TF:
   IVF:
                                                                  1,151 mL
                                                                    117 mL
   Blood products:
   Total out:
                                                                  1,269 mL
                                                                    370 mL
   Urine:
                                                                    469 mL
                                                                    190 mL
   NG:
   Stool:
                                                                    300 mL
   Drains:
                                                                    500 mL
                                                                    180 mL
   Balance:
                                                                    242 mL
                                                                   -253 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///16/
   Physical Examination
   General: Resting comfortably
   HEENT: Lesion on lower lip.
   CV: Irregular S1+S2
   Pulm: Decreased breath sounds left base
   Abd: Midline wound dressed at this time; colostomy on left, drainage
   for bile on left; hypoactive bowel sounds
   Ext: 2+ pitting edema lower, upper extremity edema bilaterally
   Labs / Radiology
   283 K/uL
   10.1 g/dL
   120 mg/dL
   1.8 mg/dL
   16 mEq/L
   3.8 mEq/L
   44 mg/dL
   111 mEq/L
   136 mEq/L
   28.8 %
   13.5 K/uL
        [image002.jpg]
                            [**2196-12-4**]  01:07 PM
                            [**2196-12-4**]  02:49 PM
                            [**2196-12-4**]  08:00 PM
                            [**2196-12-5**]  05:45 AM
                            [**2196-12-5**]  05:28 PM
                            [**2196-12-6**]  05:04 AM
                            [**2196-12-6**]  06:25 PM
                            [**2196-12-7**]  04:30 AM
                            [**2196-12-8**]  03:57 AM
                            [**2196-12-9**]  03:30 AM
   WBC
   26.5
   17.1
   18.0
   15.2
   13.7
   14.3
   13.5
   Hct
   31.4
   27.0
   28.4
   24.4
   28.2
   28.4
   30.0
   28.8
   Plt
   381
   258
   295
   247
   277
   266
   283
   Cr
   2.3
   2.3
   2.4
   2.3
   2.1
   2.1
   1.8
   1.8
   TropT
   0.05
   Glucose
   220
   182
   270
   140
   143
   110
   118
   120
   Other labs: PT / PTT / INR:20.9/30.3/2.0, CK / CKMB /
   Troponin-T:429/22/0.05, ALT / AST:[**8-27**], Alk Phos / T Bili:53/0.2,
   Differential-Neuts:94.4 %, Band:2.0 %, Lymph:4.0 %, Mono:1.3 %, Eos:0.1
   %, D-dimer:1741 ng/mL, Fibrinogen:672 mg/dL, Lactic Acid:2.0 mmol/L,
   Albumin:2.0 g/dL, LDH:141 IU/L, Ca++:7.0 mg/dL, Mg++:2.0 mg/dL, PO4:5.0
   mg/dL
   Microbiology: Blood ([**12-4**]):  Blood Culture, Routine (Preliminary):
         [**Female First Name (un) **] PARAPSILOSIS.    Fluconazole PENDING.
         STAPHYLOCOCCUS, COAGULASE NEGATIVE.    ISOLATED FROM ONE SET
   ONLY.
   Urine ([**12-4**]):   YEAST.    >100,000 ORGANISMS/ML..
   Assessment and Plan
   Mrs. [**Known lastname 1598**] is an 85 year old female with a PMH significant for CAD s/p
   CABG and recent hospitalization for rectal perforation and small bowel
   prolapse complicatedy by necrosis now s/p rectocolectomy and
   percutaneous chole with course complicated by pneumonia and C.diff
   transferred from OSH on [**12-4**] for septic shock secondary to fungemia
   and bacetermia.
   .
   # Sepsis: Patient with blood cultures from [**12-4**] positive for coag
   negative Staph and [**Female First Name (un) **] parapsilosis.  Also with positive C.diff
   from OSH in prior week and possible intraabdominal infectious process.
   Continues to have a leukocytosis to 13.5 and hypotensive requiring
   pressor support.
   - Continue IV vancomycin for Coag negative Staph dosed per daily AM
   levels. Received 750 mg two days ago with level this AM of XXX.  Plan
   to continue for 14 days from first negative blood culture.
   - Continue PO vanco and IV flagyl for C. diff coverage.
   - Continue caspofungin for fungemia.  Will continue for 14 days from
   first negative blood culture.
   - Follow-up on culture data
   - Wean levophed with goal MAP>60
   - Trend fever curve and WBC
   - Discontinue hydrocort.
   - Patient will need ophtho consult for candidemia during admission.
   .
   # Coagulopathy: INR continues to be elevated and stable at 2.0 today.
   Unlikely to be microangiopathic process such as DIC given elevated
   fibrinogen and platelets>100.  Likely combination of nutritional
   deficiency in conjunction with antimicrobial therapy altering gut
   flora.  Patient has received vitamin K 10 mg x2 during admission.
   - Vitamin K 10 mg SQ x1 as patient may have inadequate gut absorption.
   - Trend coags
   - Follow-up Nutrition recs
   .
   # Acute on chronic renal failure: Creatinine stable this AM at 1.8 with
   baseline of 1.5-2.0.  UOP continues to be poor at 20-30 cc/hr.  ARF
   likely due to hypotension/sepsis and inadequate renal perfusion.
   - Trend renal function
   - Monitor UOP
   - Calculate CVP respiratory variation.
   .
   # Anemia: AM hct of 28.8 at baseline.  She has an elevated MCV with
   high normal RDW. Past iron studies consistent with ACD.
   - Trend hct, transfuse for hct<25
   .
   # Rectocolectomy: Patient evaluated by surgery and wound care.
   - Dressing changes per wound care
   - Continues to have bloody output from ostomy bag.
   - Fentaynl patch and morphine prn for breakthrough pain.
   .
   # PAF: Continues to appear to be in afib/flutter on telemetry. .
   - Holding BB given hypotension currently
   .
   # Elevated biomarkers: Likely secondary to demand ischemia given
   hypotension. Has history of CAD s/p CABG with MI in [**2194**]. Telemetry and
   EKG with considerable ectopy but no indication of acute ischemia.
   - Hold ASA and statin
   - BB and ACEI held given hypotension
   .
   # CHRONIC CHF: In [**11-22**], LVEF>55% without evidence of diastolic
   dysfunction. Not in overt CHF on CXR on admission. Given septic shock
   will push fluids as possible although may become difficult balance
   given patient is DNI and goal will be to maintain stable respiratory
   function.
   - Holding BB, ACEI, Lasix as above
   .
   # HYPERLIPIDEMIA: Hold statin
   .
   # HYPOTHYROIDISM: TSH elevated to 23. T3/T4 low.
   - Levothyroxine dose increased [**12-5**].
   .
   # FEN: Tolerating softs, nutrition consult, replete as necessary
   .
   # Access: RIJ.
   .
   # PPx: INR Therapeutic.  PPI.
   .
   # Code:  DNR/DNI
   - Continue open discussion re: goals of care with family.
   .
   # Dispo:  ICU level of care
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2196-12-5**] 08:00 AM
   Multi Lumen - [**2196-12-7**] 05:52 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2196-12-09 11:11:00 Physician Attending Progress Note
Chief Complaint: sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Fungemia
   24 Hour Events:
   remains on levophed
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2196-12-7**] 08:00 AM
   Caspofungin - [**2196-12-8**] 08:30 PM
   Vancomycin - [**2196-12-9**] 05:32 AM
   Metronidazole - [**2196-12-9**] 07:47 AM
   Infusions:
   Norepinephrine - 0.06 mcg/Kg/min
   Other ICU medications:
   Morphine Sulfate - [**2196-12-9**] 07:47 AM
   Pantoprazole (Protonix) - [**2196-12-9**] 07:48 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2196-12-9**] 11:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.7
C (96.2
   Tcurrent: 35.4
C (95.8
   HR: 85 (73 - 102) bpm
   BP: 104/50(63) {95/47(60) - 132/73(86)} mmHg
   RR: 11 (11 - 34) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 101.2 kg (admission): 62.5 kg
   Height: 62 Inch
   CVP: 9 (8 - 14)mmHg
   Total In:
                                                                  1,511 mL
                                                                    302 mL
   PO:
                                                                    360 mL
   TF:
   IVF:
                                                                  1,151 mL
                                                                    302 mL
   Blood products:
   Total out:
                                                                  1,269 mL
                                                                    445 mL
   Urine:
                                                                    469 mL
                                                                    265 mL
   NG:
   Stool:
                                                                    300 mL
   Drains:
                                                                    500 mL
                                                                    180 mL
   Balance:
                                                                    242 mL
                                                                   -143 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///16/
   Physical Examination
   Gen: alert lying in bed
   CV:  irreg irreg
   Chest:  poor air movement no wheeze no rales
   Abd:  soft min BS dressing CDI
   Ext: 3+ edema
   Labs / Radiology
   10.1 g/dL
   283 K/uL
   120 mg/dL
   1.8 mg/dL
   16 mEq/L
   3.8 mEq/L
   44 mg/dL
   111 mEq/L
   136 mEq/L
   28.8 %
   13.5 K/uL
        [image002.jpg]
                            [**2196-12-4**]  01:07 PM
                            [**2196-12-4**]  02:49 PM
                            [**2196-12-4**]  08:00 PM
                            [**2196-12-5**]  05:45 AM
                            [**2196-12-5**]  05:28 PM
                            [**2196-12-6**]  05:04 AM
                            [**2196-12-6**]  06:25 PM
                            [**2196-12-7**]  04:30 AM
                            [**2196-12-8**]  03:57 AM
                            [**2196-12-9**]  03:30 AM
   WBC
   26.5
   17.1
   18.0
   15.2
   13.7
   14.3
   13.5
   Hct
   31.4
   27.0
   28.4
   24.4
   28.2
   28.4
   30.0
   28.8
   Plt
   381
   258
   295
   247
   277
   266
   283
   Cr
   2.3
   2.3
   2.4
   2.3
   2.1
   2.1
   1.8
   1.8
   TropT
   0.05
   Glucose
   220
   182
   270
   140
   143
   110
   118
   120
   Other labs: PT / PTT / INR:20.9/30.3/2.0, CK / CKMB /
   Troponin-T:429/22/0.05, ALT / AST:[**8-27**], Alk Phos / T Bili:53/0.2,
   Differential-Neuts:94.4 %, Band:2.0 %, Lymph:4.0 %, Mono:1.3 %, Eos:0.1
   %, D-dimer:1741 ng/mL, Fibrinogen:672 mg/dL, Lactic Acid:2.0 mmol/L,
   Albumin:2.0 g/dL, LDH:141 IU/L, Ca++:7.0 mg/dL, Mg++:2.0 mg/dL, PO4:5.0
   mg/dL
   Assessment and Plan
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 SHOCK, SEPTIC
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 ATRIAL FIBRILLATION (AFIB)
   Hypotension- remains on levophed, and continue efforts to wean to MAP
   65. At this point CVp about 8- would calc RAP cganges with respiration
   and see if a brief fluid challenge could help get her finally off
   pressors (realize she is very total body vol up and anasarcic) Check
   SCVO2
   Abd Infection: tolerating pos, Continues on vanco/flagyl/caspofungin.
   Afib: stable rates
   Remaining issues as per housesatff notes reviewed and discussed on
   rounds.
   Critically ill, 35 minutes
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2196-12-5**] 08:00 AM
   Multi Lumen - [**2196-12-7**] 05:52 PM
   Prophylaxis:
   DVT:
   Stress ulcer: ppi
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 35
   Patient is critically ill

2196-12-10 06:32:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Levophed stopped, received 500cc bolus x2.  Restarted around midnight
   to 0.03.  UOP down to 5 cc/hr, gave an additional 500cc IVF.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2196-12-7**] 08:00 AM
   Caspofungin - [**2196-12-9**] 08:17 PM
   Metronidazole - [**2196-12-10**] 12:17 AM
   Vancomycin - [**2196-12-10**] 06:00 AM
   Infusions:
   Norepinephrine - 0.03 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2196-12-9**] 07:48 AM
   Morphine Sulfate - [**2196-12-9**] 04:45 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   No complaints this morning. States she feels very well. Denies
   abdominal pain, nausea, SOB, chest pain. Eatting soft foods without
   problem.
   Flowsheet Data as of  [**2196-12-10**] 06:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.6
C (96.1
   Tcurrent: 35.6
C (96
   HR: 93 (84 - 109) bpm
   BP: 137/77(66) {78/43(53) - 137/77(79)} mmHg
   RR: 24 (11 - 30) insp/min
   SpO2: 95%
   Heart rhythm: A Flut (Atrial Flutter)
   Wgt (current): 101.2 kg (admission): 62.5 kg
   Height: 62 Inch
    CVP: 7 (6 - 10)mmHg
   Total In:
                                                                  2,157 mL
                                                                    805 mL
   PO:
                                                                    360 mL
                                                                    120 mL
   TF:
   IVF:
                                                                  1,797 mL
                                                                    685 mL
   Blood products:
   Total out:
                                                                  1,175 mL
                                                                    485 mL
   Urine:
                                                                    795 mL
                                                                    185 mL
   NG:
   Stool:
   Drains:
                                                                    380 mL
                                                                    200 mL
   Balance:
                                                                    982 mL
                                                                    320 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ////
   Physical Examination
   General: Resting comfortably; more talkative/interactive than usual
   HEENT: Eschar on lower lip.
   CV: Irregular, normal S1/S2, no murmurs
   Pulm: Decreased breath sounds bibasilar
   Abd: Midline wound dressed at this time; colostomy on left, drainage
   for bile on left; hypoactive bowel sounds
   Ext: 2+ pitting edema lower extremities; considerably reduced edema of
   upper extremities bilaterally
   Labs / Radiology
   283 K/uL
   10.1 g/dL
   120 mg/dL
   1.8 mg/dL
   16 mEq/L
   3.8 mEq/L
   44 mg/dL
   111 mEq/L
   136 mEq/L
   28.8 %
   13.5 K/uL
        [image002.jpg]
                            [**2196-12-4**]  01:07 PM
                            [**2196-12-4**]  02:49 PM
                            [**2196-12-4**]  08:00 PM
                            [**2196-12-5**]  05:45 AM
                            [**2196-12-5**]  05:28 PM
                            [**2196-12-6**]  05:04 AM
                            [**2196-12-6**]  06:25 PM
                            [**2196-12-7**]  04:30 AM
                            [**2196-12-8**]  03:57 AM
                            [**2196-12-9**]  03:30 AM
   WBC
   26.5
   17.1
   18.0
   15.2
   13.7
   14.3
   13.5
   Hct
   31.4
   27.0
   28.4
   24.4
   28.2
   28.4
   30.0
   28.8
   Plt
   381
   258
   295
   247
   277
   266
   283
   Cr
   2.3
   2.3
   2.4
   2.3
   2.1
   2.1
   1.8
   1.8
   TropT
   0.05
   Glucose
   220
   182
   270
   140
   143
   110
   118
   120
   Other labs: PT / PTT / INR:20.9/30.3/2.0, CK / CKMB /
   Troponin-T:429/22/0.05, ALT / AST:[**8-27**], Alk Phos / T Bili:53/0.2,
   Differential-Neuts:94.4 %, Band:2.0 %, Lymph:4.0 %, Mono:1.3 %, Eos:0.1
   %, D-dimer:1741 ng/mL, Fibrinogen:672 mg/dL, Lactic Acid:2.0 mmol/L,
   Albumin:2.0 g/dL, LDH:141 IU/L, Ca++:7.0 mg/dL, Mg++:2.0 mg/dL, PO4:5.0
   mg/dL
   Catheter tip culture ([**12-9**]): No growth to date
   Blood culture ([**12-8**], [**12-10**]): No growth to date
   Assessment and Plan
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 SHOCK, SEPTIC
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 ATRIAL FIBRILLATION (AFIB)
   Mrs. [**Known lastname 1598**] is an 85 year old female with a PMH significant for CAD s/p
   CABG and recent hospitalization for rectal perforation and small bowel
   prolapse complicated by necrosis now s/p rectocolectomy and
   percutaneous chole with course complicated by pneumonia and C.diff
   transferred from OSH on [**12-4**] for septic shock secondary to fungemia
   and bacteremia.
   # Sepsis: Patient with blood cultures from [**12-4**] positive for coag
   negative Staph and [**Female First Name (un) **] parapsilosis.  Also with positive C.diff
   from OSH in prior week and possible intraabdominal infectious process.
   Continues to have a leukocytosis to 13.5 and hypotensive requiring
   pressor support. Hydrocortisone d/c
ed [**12-9**].
   - D/c vancomycin IV as patient with only 1 positive blood culture with
   coag negative Staph
   - Continue PO vanco and IV flagyl for C. diff coverage
   - Continue caspofungin for fungemia.  Will continue for 14 days from
   first negative blood culture.
   - Follow-up on culture data
   - Wean levophed with goal MAP>60
   - Trend fever curve and WBC
   - Patient will need ophtho consult for candidemia during admission.
   # Coagulopathy: INR continues to be elevated and stable at 2.0 today.
   Unlikely to be microangiopathic process such as DIC given elevated
   fibrinogen and platelets>100.  Likely combination of nutritional
   deficiency in conjunction with antimicrobial therapy altering gut
   flora.  Patient has received vitamin K 10 mg x2 during admission.
   - Trend coags
   - Follow-up nutrition recs
   # Acute on chronic renal failure: Creatinine stable this AM at 1.5 with
   baseline of 1.5-2.0.  UOP continues to be poor at 20-30 cc/hr.  ARF
   likely due to hypotension/sepsis and inadequate renal perfusion.
   - Trend renal function
   - Monitor UOP
   # Anemia: AM hct of 29.1 at baseline.  She has an elevated MCV with
   high normal RDW. Past iron studies consistent with ACD.
   - Trend hct, transfuse for hct<25
   # Rectocolectomy: Patient evaluated by surgery and wound care.
   Continues to have bloody output from ostomy bag.
   - Dressing changes per wound care
   - Fentaynl patch and morphine prn for breakthrough pain.
   # PAF: Continues to appear to be in afib/flutter on telemetry.
   - Holding BB given hypotension currently
   # Elevated biomarkers: Likely secondary to demand ischemia given
   hypotension. Has history of CAD s/p CABG with MI in [**2194**]. Telemetry and
   EKG with considerable ectopy but no indication of acute ischemia.
   - Hold ASA and statin
   - BB and ACEI held given hypotension
   # CHRONIC CHF: In [**11-22**], LVEF>55% without evidence of diastolic
   dysfunction. Not in overt CHF on CXR on admission. Given septic shock
   will push fluids as possible although may become difficult balance
   given patient is DNI and goal will be to maintain stable respiratory
   function.
   - Holding BB, ACEI, Lasix as above
   # HYPERLIPIDEMIA: Hold statin
   # HYPOTHYROIDISM: TSH elevated to 23. T3/T4 low.
   - Levothyroxine dose increased [**12-5**]
   # FEN: Tolerating softs, nutrition consult, replete as necessary
   # Access: RIJ.
   # PPx: INR Therapeutic.  PPI.
   # Code:  DNR/DNI
   - Continue open discussion re: goals of care with family.
   # Dispo:  ICU level of care
   ICU Care (as above)
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2196-12-7**] 05:52 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2196-12-10 12:32:00 Physician Attending Progress Note
Chief Complaint: sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   85 year old female with rectal perf s/p ostomy, Cdiff colitis, [**Hospital 1644**]
   Transferred from OSH with shock from fungal sepsis
   24 Hour Events:
   *Uop dropped- got 500 cc bolus
   *Attempted levophed wean but remains pressor-dependent
   History obtained from [**Hospital 31**] Medical records, ICU housestaff
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Caspofungin - [**2196-12-9**] 08:17 PM
   Vancomycin - [**2196-12-10**] 06:00 AM
   Metronidazole - [**2196-12-10**] 08:12 AM
   Infusions:
   Norepinephrine - 0.03 mcg/Kg/min
   Other ICU medications:
   Morphine Sulfate - [**2196-12-9**] 04:45 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2196-12-10**] 12:27 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.6
C (96.1
   Tcurrent: 35.6
C (96
   HR: 88 (85 - 109) bpm
   BP: 97/49(60) {78/43(53) - 137/77(74)} mmHg
   RR: 16 (13 - 30) insp/min
   SpO2: 88%
   Heart rhythm: A Flut (Atrial Flutter)
   Wgt (current): 101.2 kg (admission): 62.5 kg
   Height: 62 Inch
   CVP: 7 (6 - 9)mmHg
   Total In:
                                                                  2,157 mL
                                                                  1,102 mL
   PO:
                                                                    360 mL
                                                                    240 mL
   TF:
   IVF:
                                                                  1,797 mL
                                                                    862 mL
   Blood products:
   Total out:
                                                                  1,175 mL
                                                                    530 mL
   Urine:
                                                                    795 mL
                                                                    230 mL
   NG:
   Stool:
   Drains:
                                                                    380 mL
                                                                    200 mL
   Balance:
                                                                    982 mL
                                                                    572 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 88%
   ABG: ///16/
   Physical Examination
   General Appearance: Well nourished, No acute distress, No(t) Anxious,
   No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), irreg irreg
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : , No(t) Crackles : , No(t)
   Bronchial: , No(t) Wheezes : , No(t) Diminished: , No(t) Absent : ,
   No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 4+, Left: 4+, No(t) Cyanosis, No(t) Clubbing, UE
   edema improving
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t) Sedated,
   No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   9.9 g/dL
   240 K/uL
   80 mg/dL
   1.5 mg/dL
   16 mEq/L
   3.8 mEq/L
   41 mg/dL
   114 mEq/L
   138 mEq/L
   29.1 %
   12.6 K/uL
        [image002.jpg]
                            [**2196-12-4**]  02:49 PM
                            [**2196-12-4**]  08:00 PM
                            [**2196-12-5**]  05:45 AM
                            [**2196-12-5**]  05:28 PM
                            [**2196-12-6**]  05:04 AM
                            [**2196-12-6**]  06:25 PM
                            [**2196-12-7**]  04:30 AM
                            [**2196-12-8**]  03:57 AM
                            [**2196-12-9**]  03:30 AM
                            [**2196-12-10**]  05:14 AM
   WBC
   26.5
   17.1
   18.0
   15.2
   13.7
   14.3
   13.5
   12.6
   Hct
   31.4
   27.0
   28.4
   24.4
   28.2
   28.4
   30.0
   28.8
   29.1
   Plt
   381
   258
   295
   247
   277
   266
   283
   240
   Cr
   2.3
   2.3
   2.4
   2.3
   2.1
   2.1
   1.8
   1.8
   1.5
   Glucose
   220
   182
   270
   140
   143
   110
   118
   120
   80
   Other labs: PT / PTT / INR:20.8/28.8/2.0, CK / CKMB /
   Troponin-T:429/22/0.05, ALT / AST:[**8-27**], Alk Phos / T Bili:53/0.2,
   Differential-Neuts:94.4 %, Band:2.0 %, Lymph:4.0 %, Mono:1.3 %, Eos:0.1
   %, D-dimer:1741 ng/mL, Fibrinogen:672 mg/dL, Lactic Acid:2.0 mmol/L,
   Albumin:2.0 g/dL, LDH:141 IU/L, Ca++:6.8 mg/dL, Mg++:2.0 mg/dL, PO4:4.5
   mg/dL
   Fluid analysis / Other labs: Vanco 13
   Microbiology: C. paropsolis (blood cultures) [**12-4**]
   Subsequent BdCx's negative
   Cdiff negative
   Assessment and Plan
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 SHOCK, SEPTIC
   [**Female First Name (un) **]+ from 2 blood cultures, but none since
   Overall improving but remains pressor-dependent
   continue caspofungin for 2 week course
   d/c IV vanco (started empirically, had 1 +Bd cx for CNS but suspect
   contaminant)
   continue to wean levophed to maintain MAP>60
 Coagulopathy: DIC labs negative, may be from malnutrtion. Monitor as
   pt not bleeding
 s/p rectocolectomy- Sugery and wound care following
   Other issues as per HO's notes
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2196-12-7**] 05:52 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2196-12-11 07:55:00 Physician Resident Progress Note
Chief Complaint: Hypotension
   24 Hour Events:
   - Started Lopressor for rate control (5mg IV x1 and 12.5mg PO BID)
   after HR in 140s with new T wave inversions in lateral leads
   - Doing well off of pressors
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Caspofungin - [**2196-12-10**] 07:50 PM
   Metronidazole - [**2196-12-11**] 12:00 AM
   Vancomycin - [**2196-12-11**] 06:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: No(t) Chest pain, No(t) Palpitations
   Respiratory: No(t) Cough, No(t) Dyspnea
   Gastrointestinal: Abdominal pain, No(t) Nausea, No(t) Emesis, No(t)
   Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2196-12-11**] 07:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.7
C (96.2
   Tcurrent: 35.7
C (96.2
   HR: 95 (86 - 148) bpm
   BP: 102/55(66) {97/45(60) - 121/71(82)} mmHg
   RR: 25 (16 - 42) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 101.2 kg (admission): 62.5 kg
   Height: 62 Inch
    CVP: 7 (7 - 11)mmHg
   Total In:
                                                                  1,943 mL
                                                                    176 mL
   PO:
                                                                    600 mL
   TF:
   IVF:
                                                                  1,343 mL
                                                                    176 mL
   Blood products:
   Total out:
                                                                  1,335 mL
                                                                    350 mL
   Urine:
                                                                    660 mL
                                                                    245 mL
   NG:
   Stool:
   Drains:
                                                                    375 mL
                                                                     80 mL
   Balance:
                                                                    608 mL
                                                                   -174 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ///16/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), [**Last Name (un) **] irregular
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   minimal anteriorly)
   Abdominal: Soft, Non-tender, Bowel sounds present, dressing C/I/D,
   stoma intact
   Extremities: Right: 3+, Left: 3+
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   208 K/uL
   9.8 g/dL
   91 mg/dL
   1.3 mg/dL
   16 mEq/L
   4.1 mEq/L
   39 mg/dL
   118 mEq/L
   140 mEq/L
   28.3 %
   9.7 K/uL
        [image002.jpg]
                            [**2196-12-4**]  08:00 PM
                            [**2196-12-5**]  05:45 AM
                            [**2196-12-5**]  05:28 PM
                            [**2196-12-6**]  05:04 AM
                            [**2196-12-6**]  06:25 PM
                            [**2196-12-7**]  04:30 AM
                            [**2196-12-8**]  03:57 AM
                            [**2196-12-9**]  03:30 AM
                            [**2196-12-10**]  05:14 AM
                            [**2196-12-11**]  05:10 AM
   WBC
   26.5
   17.1
   18.0
   15.2
   13.7
   14.3
   13.5
   12.6
   9.7
   Hct
   31.4
   27.0
   28.4
   24.4
   28.2
   28.4
   30.0
   28.8
   29.1
   28.3
   Plt
   381
   258
   295
   247
   277
   266
   [**Telephone/Fax (3) 1663**]
   Cr
   2.3
   2.4
   2.3
   2.1
   2.1
   1.8
   1.8
   1.5
   1.3
   Glucose
   182
   270
   140
   143
   110
   118
   120
   80
   91
   Other labs: PT / PTT / INR:20.8/28.8/2.0, CK / CKMB /
   Troponin-T:429/22/0.05, ALT / AST:[**8-27**], Alk Phos / T Bili:53/0.2,
   Differential-Neuts:94.4 %, Band:2.0 %, Lymph:4.0 %, Mono:1.3 %, Eos:0.1
   %, D-dimer:1741 ng/mL, Fibrinogen:672 mg/dL, Lactic Acid:2.0 mmol/L,
   Albumin:2.0 g/dL, LDH:141 IU/L, Ca++:6.9 mg/dL, Mg++:2.0 mg/dL, PO4:3.9
   mg/dL
   Assessment and Plan
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 SHOCK, SEPTIC
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 ATRIAL FIBRILLATION (AFIB)
   Mrs. [**Known lastname 1598**] is an 85 year old female with a PMH significant for CAD s/p
   CABG and recent hospitalization for rectal perforation and small bowel
   prolapse complicated by necrosis now s/p rectocolectomy and
   percutaneous chole with course complicated by pneumonia and C.diff
   transferred from OSH on [**12-4**] for septic shock secondary to fungemia
   and bacteremia.
   # Sepsis: Patient with blood cultures from [**12-4**] positive for coag
   negative Staph and [**Female First Name (un) **] parapsilosis.  Also with positive C.diff
   from OSH in prior week and possible intraabdominal infectious process.
   Continues to have a leukocytosis resolved 9.7 today.  Pt has been
   stable off pressors. Hydrocortisone d/c
ed [**12-9**].
   - Continue PO vanco and IV flagyl for C. diff coverage
   - Continue caspofungin for fungemia.  Will continue for 14 days from
   first negative blood culture.
   - Follow-up on culture data
   - Maintain MAP > 65
   - Trend fever curve and WBC
   - Patient will need ophtho consult for candidemia during admission.
   # Coagulopathy: INR continues to be elevated and stable at 2.0 today.
   Unlikely to be microangiopathic process such as DIC given elevated
   fibrinogen and platelets>100.  Likely combination of nutritional
   deficiency in conjunction with antimicrobial therapy altering gut
   flora.  Patient has received vitamin K 10 mg x2 during admission.
   - Trend coags
   - Follow-up nutrition recs
   # Acute on chronic renal failure: Creatinine inmproved this AM at 1.3
   with baseline of 1.5-2.0.  UOP continues to be poor at 20-30 cc/hr.
   ARF likely due to hypotension/sepsis and inadequate renal perfusion.
   - Trend renal function
   - Monitor UOP
   # Anemia: AM hct of 29.1 at baseline.  She has an elevated MCV with
   high normal RDW. Past iron studies consistent with ACD.
   - Trend hct, transfuse for hct<25
   # Rectocolectomy: Patient evaluated by surgery and wound care.
   Continues to have bloody output from ostomy bag.
   - Dressing changes per wound care
   - Fentaynl patch and morphine prn for breakthrough pain.
   # PAF: Continues to appear to be in afib/flutter on telemetry.  Pt was
   started on metoprolol 12.5 [**Hospital1 **] for rate control and tolerating.
   - Cont metorprolol 12.5mg [**Hospital1 **]
   # Elevated biomarkers: Likely secondary to demand ischemia given
   hypotension. Has history of CAD s/p CABG with MI in [**2194**]. Telemetry and
   EKG with considerable ectopy but no indication of acute ischemia.
   - Hold ASA and statin, can restart when more stable
   - Cont BB
   - ACEI  given h/o hypotension can restart when stablized
   # CHRONIC CHF: In [**11-22**], LVEF>55% without evidence of diastolic
   dysfunction. Not in overt CHF on CXR on admission. Given septic shock
   will push fluids as possible although may become difficult balance
   given patient is DNI and goal will be to maintain stable respiratory
   function.
   -  cont BB as above
   -  ACEI, Lasix as above
   # HYPERLIPIDEMIA: Hold statin
   # HYPOTHYROIDISM: TSH elevated to 23. T3/T4 low.
   - Levothyroxine dose increased [**12-5**]
   # FEN: Tolerating softs, nutrition consult, replete as necessary
   # Access: RIJ.
   # PPx: INR elevated, PPI
   # Code:  DNR/DNI
   - Continue open discussion re: goals of care with family.
   # Dispo:  ICU level of care
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2196-12-7**] 05:52 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Other, elevated INR)
   Stress ulcer:
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: DNR / DNI
   Disposition:ICU

2196-12-11 10:34:00 Physician Attending Progress Note
Chief Complaint: hypotension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   85 year old female with multiple abdominal surgeries shock due to
   fungemia
   24 Hour Events:
   *Weaned off levophed
   *Subsequently went into rapid afib- received one dose of IV lopressor
   and started on po maintenance meds
   History obtained from [**Hospital 31**] Medical records, housestaff
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Caspofungin - [**2196-12-10**] 07:50 PM
   Vancomycin - [**2196-12-11**] 06:00 AM
   Metronidazole - [**2196-12-11**] 08:09 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Protonix
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2196-12-11**] 10:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.7
C (96.2
   Tcurrent: 35.6
C (96
   HR: 103 (86 - 148) bpm
   BP: 103/52(65) {101/45(62) - 121/71(82)} mmHg
   RR: 35 (16 - 42) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 101.2 kg (admission): 62.5 kg
   Height: 62 Inch
   CVP: 7 (7 - 11)mmHg
   Total In:
                                                                  1,943 mL
                                                                    542 mL
   PO:
                                                                    600 mL
                                                                    240 mL
   TF:
   IVF:
                                                                  1,343 mL
                                                                    302 mL
   Blood products:
   Total out:
                                                                  1,335 mL
                                                                    405 mL
   Urine:
                                                                    660 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
                                                                    375 mL
                                                                     80 mL
   Balance:
                                                                    608 mL
                                                                    137 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ///16/
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   NG tube, No(t) OG tube
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant), Irreg irreg
   Peripheral Vascular: DP+ pulses
   Respiratory / Chest: (Expansion: Symmetric); scattered rales anteriorly
   Abdominal: Soft, Non-tender, Bowel sounds present, stoma intact,
   surgical dressing dry
   Ext: 4+ edema
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, No(t) Sedated, No(t) Paralyzed, Tone:
   Normal
   Labs / Radiology
   9.8 g/dL
   208 K/uL
   91 mg/dL
   1.3 mg/dL (decreasing)
   16 mEq/L
   4.1 mEq/L
   39 mg/dL (decreasing)
   118 mEq/L
   140 mEq/L
   28.3 %
   9.7 K/uL
        [image002.jpg]
                            [**2196-12-4**]  08:00 PM
                            [**2196-12-5**]  05:45 AM
                            [**2196-12-5**]  05:28 PM
                            [**2196-12-6**]  05:04 AM
                            [**2196-12-6**]  06:25 PM
                            [**2196-12-7**]  04:30 AM
                            [**2196-12-8**]  03:57 AM
                            [**2196-12-9**]  03:30 AM
                            [**2196-12-10**]  05:14 AM
                            [**2196-12-11**]  05:10 AM
   WBC
   26.5
   17.1
   18.0
   15.2
   13.7
   14.3
   13.5
   12.6
   9.7
   Hct
   31.4
   27.0
   28.4
   24.4
   28.2
   28.4
   30.0
   28.8
   29.1
   28.3
   Plt
   381
   258
   295
   247
   277
   266
   [**Telephone/Fax (3) 1663**]
   Cr
   2.3
   2.4
   2.3
   2.1
   2.1
   1.8
   1.8
   1.5
   1.3
   Glucose
   182
   270
   140
   143
   110
   118
   120
   80
   91
   Other labs: PT / PTT / INR:20.8/28.8/2.0, CK / CKMB /
   Troponin-T:429/22/0.05, ALT / AST:[**8-27**], Alk Phos / T Bili:53/0.2,
   Differential-Neuts:94.4 %, Band:2.0 %, Lymph:4.0 %, Mono:1.3 %, Eos:0.1
   %, D-dimer:1741 ng/mL, Fibrinogen:672 mg/dL, Lactic Acid:2.0 mmol/L,
   Albumin:2.0 g/dL, LDH:141 IU/L, Ca++:6.9 mg/dL, Mg++:2.0 mg/dL, PO4:3.9
   mg/dL
   Assessment and Plan
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 SHOCK, SEPTIC
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 ATRIAL FIBRILLATION (AFIB)
   85 year old female w/p multiple abdominal surgeries with sepsis due to
   fungemia.
   Overall improved on antibiotics with decreasing WBC, fevers, negative
   surveillance cultures- off pressors over the past day
   *Sepsis: Overall trend has been good Remains on caspofungin for [**Female First Name (un) **]
   bacteremia to complete 14 day course, po vanc/IV flagyl for Cdiff
   colitis dx
d at OSH
   *ARF: Cr improving, uop still sluggish. As BP now improved, will see
   how she responds to diuresis- +14 liter  for entire hospitalization
   though may be partial overestimation with skin insensible losses
   *Anemia: unchanged, no current plans for transfusion
   *s/p rectocolectomy: f/u wound care recs; on fentanyl patch for pain
   *Afib: started on metoprolol yesterday, adjust as needed
   *CAD no s/sx acute ischemia. On beta-blocker. Continue to hold Ace-I as
   she may need further increase in beta-blocker for rate control, vs
   diuresis
 resume when able.
   *Tachypnea: Denies SOB, but RR faster today. [**Month (only) 11**] represent volume
   overload given rapid rate and net positive volume overload. Will check
   CXr, give lasix
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2196-12-7**] 05:52 PM
   Prophylaxis:
   DVT:
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition : ICU for now, will check back later after lasix
   Total time spent: 35 min.

2196-12-12 06:40:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Gave 20mg IV lasix with UOP ~570L, did not give additional dose
   because of decreased BP
   - call optho consult tomorrow for fungemia (only urgent and ED consults
   on weekends)
   - CXR: essentially unchanged from prior
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Caspofungin - [**2196-12-11**] 07:30 PM
   Metronidazole - [**2196-12-12**] 12:00 AM
   Vancomycin - [**2196-12-12**] 12:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2196-12-11**] 10:44 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2196-12-12**] 06:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.1
C (97
   HR: 107 (84 - 113) bpm
   BP: 101/53(65) {97/50(60) - 131/80(90)} mmHg
   RR: 26 (17 - 35) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 101.2 kg (admission): 62.5 kg
   Height: 62 Inch
             Total In:
                                                                  1,270 mL
                                                                    526 mL
   PO:
                                                                    480 mL
                                                                    360 mL
   TF:
   IVF:
                                                                    790 mL
                                                                    166 mL
   Blood products:
   Total out:
                                                                  1,270 mL
                                                                    400 mL
   Urine:
                                                                  1,020 mL
                                                                    180 mL
   NG:
   Stool:
   Drains:
                                                                    180 mL
                                                                    170 mL
   Balance:
                                                                      0 mL
                                                                    126 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///16/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   200 K/uL
   10.2 g/dL
   86 mg/dL
   1.2 mg/dL
   16 mEq/L
   4.2 mEq/L
   37 mg/dL
   116 mEq/L
   140 mEq/L
   30.7 %
   10.6 K/uL
        [image002.jpg]
                            [**2196-12-5**]  05:45 AM
                            [**2196-12-5**]  05:28 PM
                            [**2196-12-6**]  05:04 AM
                            [**2196-12-6**]  06:25 PM
                            [**2196-12-7**]  04:30 AM
                            [**2196-12-8**]  03:57 AM
                            [**2196-12-9**]  03:30 AM
                            [**2196-12-10**]  05:14 AM
                            [**2196-12-11**]  05:10 AM
                            [**2196-12-12**]  04:42 AM
   WBC
   17.1
   18.0
   15.2
   13.7
   14.3
   13.5
   12.6
   9.7
   10.6
   Hct
   27.0
   28.4
   24.4
   28.2
   28.4
   30.0
   28.8
   29.1
   28.3
   30.7
   Plt
   258
   295
   247
   277
   266
   283
   [**Telephone/Fax (3) 1676**]
   Cr
   2.4
   2.3
   2.1
   2.1
   1.8
   1.8
   1.5
   1.3
   1.2
   Glucose
   [**Telephone/Fax (3) 1677**]10
   118
   120
   80
   91
   86
   Other labs: PT / PTT / INR:22.1/28.1/2.1, CK / CKMB /
   Troponin-T:429/22/0.05, ALT / AST:[**8-27**], Alk Phos / T Bili:53/0.2,
   Differential-Neuts:94.4 %, Band:2.0 %, Lymph:4.0 %, Mono:1.3 %, Eos:0.1
   %, D-dimer:1741 ng/mL, Fibrinogen:672 mg/dL, Lactic Acid:2.0 mmol/L,
   Albumin:2.0 g/dL, LDH:141 IU/L, Ca++:7.1 mg/dL, Mg++:2.1 mg/dL, PO4:3.9
   mg/dL
   Assessment and Plan
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
 DYSPNEA (SHORTNESS OF BREATH)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 SHOCK, SEPTIC
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 ATRIAL FIBRILLATION (AFIB)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2196-12-7**] 05:52 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2196-12-12 08:23:00 Physician Resident Progress Note
Chief Complaint: septic shock [**3-19**] fungemia
   24 Hour Events:
   - Gave 20mg IV lasix with UOP ~570L, did not give additional dose
   because of decreased BP
   - CXR [**12-11**]: essentially unchanged from prior
   History obtained from Patient
   Allergies:
   History obtained from PatientNo Known Drug Allergies
   Last dose of Antibiotics:
   Caspofungin - [**2196-12-11**] 07:30 PM
   Metronidazole - [**2196-12-12**] 12:00 AM
   Vancomycin - [**2196-12-12**] 12:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2196-12-11**] 10:44 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: No(t) Chest pain, Edema
   Respiratory: No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Neurologic: No(t) Headache, no dizziness
   Psychiatric / Sleep: No(t) Agitated
   Flowsheet Data as of  [**2196-12-12**] 08:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.1
C (97
   HR: 107 (84 - 113) bpm
   BP: 101/53(65) {97/50(60) - 131/80(90)} mmHg
   RR: 26 (17 - 32) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 101.2 kg (admission): 62.5 kg
   Height: 62 Inch
             Total In:
                                                                  1,270 mL
                                                                    543 mL
   PO:
                                                                    480 mL
                                                                    360 mL
   TF:
   IVF:
                                                                    790 mL
                                                                    183 mL
   Blood products:
   Total out:
                                                                  1,270 mL
                                                                    400 mL
   Urine:
                                                                  1,020 mL
                                                                    180 mL
   NG:
   Stool:
   Drains:
                                                                    180 mL
                                                                    170 mL
   Balance:
                                                                      0 mL
                                                                    143 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///16/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic), irreg irreg
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   No(t) Crackles : , No(t) Wheezes : , No(t) Rhonchorous: ), limited [**3-19**]
   poor pt compliance
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   Obese
   Extremities: Right: 3+, Left: 3+, No(t) Cyanosis, No(t) Clubbing
   Skin:  Warm, very thin, tense skin, weeping on arms [**3-19**] edema
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x2 but not to date, Movement: Not assessed,
   Tone: Not assessed
   Labs / Radiology
   200 K/uL
   10.2 g/dL
   86 mg/dL
   1.2 mg/dL
   16 mEq/L
   4.2 mEq/L
   37 mg/dL
   116 mEq/L
   140 mEq/L
   30.7 %
   10.6 K/uL
        [image002.jpg]
                            [**2196-12-5**]  05:45 AM
                            [**2196-12-5**]  05:28 PM
                            [**2196-12-6**]  05:04 AM
                            [**2196-12-6**]  06:25 PM
                            [**2196-12-7**]  04:30 AM
                            [**2196-12-8**]  03:57 AM
                            [**2196-12-9**]  03:30 AM
                            [**2196-12-10**]  05:14 AM
                            [**2196-12-11**]  05:10 AM
                            [**2196-12-12**]  04:42 AM
   WBC
   17.1
   18.0
   15.2
   13.7
   14.3
   13.5
   12.6
   9.7
   10.6
   Hct
   27.0
   28.4
   24.4
   28.2
   28.4
   30.0
   28.8
   29.1
   28.3
   30.7
   Plt
   258
   295
   247
   277
   266
   283
   [**Telephone/Fax (3) 1676**]
   Cr
   2.4
   2.3
   2.1
   2.1
   1.8
   1.8
   1.5
   1.3
   1.2
   Glucose
   [**Telephone/Fax (3) 1677**]10
   118
   120
   80
   91
   86
   Other labs: PT / PTT / INR:22.1/28.1/2.1, CK / CKMB /
   Troponin-T:429/22/0.05, ALT / AST:[**8-27**], Alk Phos / T Bili:53/0.2,
   Differential-Neuts:94.4 %, Band:2.0 %, Lymph:4.0 %, Mono:1.3 %, Eos:0.1
   %, D-dimer:1741 ng/mL, Fibrinogen:672 mg/dL, Lactic Acid:2.0 mmol/L,
   Albumin:2.0 g/dL, LDH:141 IU/L, Ca++:7.1 mg/dL, Mg++:2.1 mg/dL, PO4:3.9
   mg/dL
   Assessment and Plan
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
 DYSPNEA (SHORTNESS OF BREATH)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 SHOCK, SEPTIC
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 ATRIAL FIBRILLATION (AFIB)
   Mrs. [**Known lastname 1598**] is an 85 year old female with a PMH significant for CAD s/p
   CABG and recent hospitalization for rectal perforation and small bowel
   prolapse complicated by necrosis now s/p rectocolectomy and
   percutaneous chole with course complicated by pneumonia and C.diff
   transferred from OSH on [**12-4**] for septic shock secondary to fungemia
   and bacteremia.
   # Sepsis: Patient with blood cultures from [**12-4**] positive for coag
   negative Staph and [**Female First Name (un) **] parapsilosis.  Also with positive C.diff
   from OSH in prior week and possible intraabdominal infectious process.
   Continues to have a leukocytosis resolved to 10.6 today.  Pt has been
   stable off pressors for 2 days. Hydrocortisone d/c
ed [**12-9**].
   - Continue PO vanco and IV flagyl for C. diff coverage
   - Continue caspofungin for fungemia.  Will continue for 14 days from
   first negative blood culture ([**2196-12-5**]).
   - Follow-up on culture data
   - Maintain MAP > 65
   - Trend fever curve and WBC
   -Ophtho consulted today to see pt in setting of fungemia.
   # Coagulopathy: INR continues to be elevated and stable at 2.1 today.
   Unlikely to be microangiopathic process such as DIC given elevated
   fibrinogen and platelets>100 (200 today).  Likely combination of
   nutritional deficiency in conjunction with antimicrobial therapy
   altering gut flora.  Patient has received vitamin K 10 mg x2 during
   admission.
   - Trend coags
   - Follow-up nutrition recs
   # Acute on chronic renal failure: Creatinine improved this AM at 1.2
   with baseline of ~1.5.  ARF likely due to hypotension/sepsis and
   inadequate renal perfusion.
   - Trend renal function
   - Monitor UOP- will have trial of Lasix today- 20 PO BID. Pt on 20 PO
   daily at home.
   # Anemia: AM hct of 30.7 (~30 at baseline).  She has an elevated MCV
   with high normal RDW. Past iron studies consistent with ACD.
   - Trend hct, transfuse for hct<25
   # Rectocolectomy: Patient evaluated by surgery and wound care.
   Continues to have bloody output from ostomy bag.
   - Dressing changes per wound care
   - Fentaynl patch and morphine prn for breakthrough pain.
   # PAF: Continues to appear to be in afib/flutter on telemetry.  Pt was
   started on metoprolol 12.5 [**Hospital1 **] for rate control and tolerating.
   - Cont metorprolol 12.5mg [**Hospital1 **]
   # Elevated biomarkers: Likely secondary to demand ischemia given
   hypotension. Has history of CAD s/p CABG with MI in [**2194**]. Telemetry and
   EKG with considerable ectopy but no indication of acute ischemia.
   - Hold ASA and statin, can restart when more stable
   - Cont BB
   - hold ACEI  given h/o hypotension. Can restart when stablized
   # CHRONIC CHF: In [**11-22**], LVEF>55% without evidence of diastolic
   dysfunction. Not in overt CHF on CXR on admission. Given septic shock,
   was given fluids initially but now pt has worstening anasarca.
   -  cont BB as above
   -  Will try lasix today at 20 po BID- monitoring BP closely
   # HYPERLIPIDEMIA: Hold statin for now
   # HYPOTHYROIDISM: TSH elevated to 23. T3/T4 low.
   - Levothyroxine dose increased [**12-5**]
   # FEN: Tolerating softs, hearth healthy diet, nutrition consult,
   replete as necessary
   # Access: RIJ- will switch to PIV when possible given anasarca.
   # PPx: INR elevated, PPI
   # Code:  DNR/DNI
   # Dispo: call out to Floor today, note- pt written for PT/OT on the
   floor